US04016162
1.48 Grams of 3-hydrazino-4-methyl-6-morpholinopyridazine and 1.8 grams of triethylamine are dissolved in 200 milliliters of dioxane. 3.5 Grams benzoyl chloride are added to the resulting mixture, and the mixture is heated at the boiling temperature under reflux for 3 hours. The mixture is evaporated to dryness, and the 8-methyl-6- -morpholino-3-phenyl-s-triazolo[4,3-b]pyridazine product is obtained as a residue. The product is washed with water, recrystallized from ethanol and found to melt at a temperature of 271°-273° C. 3.6 Grams of the product are obtained.

reactant | 3-hydrazino-4-methyl-6-morpholinopyridazine | N(N)C=1N=NC(=CC1C)N1CCOCC1 | C9H15N5O
reactant | triethylamine | 1.8 grams | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dioxane | 200 milliliters | O1CCOCC1 | C4H8O2
product | 8-methyl-6- -morpholino-3-phenyl-s-triazolo[4,3-b]pyridazine | CC=1C=2N(N=C(C1)N1CCOCC1)C(=NN2)C2=CC=CC=C2 | C16H17N5O
